US06218539B1
a) Preparation of 4-hydroxy-3-nitropyridine
4-Hydroxy-3-nitropyridine was prepared by addition of 4-pyridone (50 g, 0.532M) to a mixture of fuming nitric acid and sulfuric acid. The resulting solution was heated for 1 hour at 100° C. The solution was cooled and poured into 500 mL of ice water and the desired product was obtained as a solid. (mp. 280° C.)

reactant | 4-pyridone | 0.532M, 50 g | N1=CCC(C=C1)=O | C5H5NO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-hydroxy-3-nitropyridine | OC1=C(C=NC=C1)[N+](=O)[O-] | C5H4N2O3
